US05703071
2-(3-bromopropoxy-7-hydroxymethyl 4-isopropyl-2,4,6-cycloheptatrien-1-one (280 mg, 0.89 mmol), N-phenethylamine (0.15 ml, 1.03 mmol), triethylamine (0.15 ml, 1.08 mmol) were dissolved in chloroform (5 ml), and the solution was heated and refluxed for 5 hours. The solution was diluted with dichloromethane, washed with water and dried over sodium sulfate. After solvent was distilled off under reduced pressure, the residue was purified by silica gel column chromatography [eluent: chloroform/methanol (10:1)] to give 242 mg of 7-hydroxymethyl-4-isopropyl-2-[3-(N-methyl-N-phenethylamino)propoxy]-2,4,6-cycloheptatrien-1-one as a yellowish brown oil (yield: 74%).

reactant | 3-bromopropoxy-7-hydroxymethyl 4-isopropyl-2,4,6-cycloheptatrien-1-one | 0.89 mmol, 280 mg | BrCCCOC=1C(C(=CC=C(C1)C(C)C)CO)=O | C14H19BrO3
reactant | N-phenethylamine | 1.03 mmol, 0.15 ml | C(CC1=CC=CC=C1)N | C8H11N
reactant | triethylamine | 1.08 mmol, 0.15 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-hydroxymethyl-4-isopropyl-2-[3-(N-methyl-N-phenethylamino)propoxy]-2,4,6-cycloheptatrien-1-one | 242 mg, yield: 74% | OCC1=CC=C(C=C(C1=O)OCCCN(CCC1=CC=CC=C1)C)C(C)C | C23H31NO3
